US08012976B2
Ethyl 2-(4-((dimethylamino)methyl)phenyl)-3-(1-methyl-1H-1,2,4-triazol-5-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate
To a solution of (E)-4-(4-((dimethylamino)methyl)benzylideneamino)isobenzofuran-1(3H)-one (2.21 g, 7.5 mmol) and 1-methyl-1H-1,2,4-triazole-5-carbaldehyde (1.01 g, 9.16 mmol) in ethyl propionate (110 ml) was added rapidly EtONa (sodium (490 mg, 21 mmol) in 35 mL ethanol) at 40° C., then the mixture was stirred at 45° C. for 3 hr. The resulting mixture was evaporated under reduced pressure, extracted with ethyl acetate (200 mL×3), and then concentrated the extract. The crude product was purified by column chromatography (silica gel, dichloromethane:methanol=100:1 to 10:1) to obtain a green solid (510 mg, yield 16%). LC-MS (ESI) m/z: 434(M+1)+.

reactant | (E)-4-(4-((dimethylamino)methyl)benzylideneamino)isobenzofuran-1(3H)-one | 7.5 mmol, 2.21 g | CN(C)CC1=CC=C(\C=N\C2=C3COC(C3=CC=C2)=O)C=C1 | C18H18N2O2
reactant | 1-methyl-1H-1,2,4-triazole-5-carbaldehyde | 9.16 mmol, 1.01 g | CN1N=CN=C1C=O | C4H5N3O
reactant | EtONa | 21 mmol, 35 mL, 490 mg | CC[O-].[Na+]
solvent | ethyl propionate | 110 ml | C(CC)(=O)OCC | C5H10O2
product | Ethyl 2-(4-((dimethylamino)methyl)phenyl)-3-(1-methyl-1H-1,2,4-triazol-5-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 510 mg, yield 16% | CN(C)CC1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C1=NC=NN1C)=O)C(=O)OCC | C24H27N5O3
